US03941803
In the manner given in Example 1, 3.16 g. of 2',5-dichloro-2-(imidazol-1-yl)benzophenone is heated in a bomb with 37% aqueous formaldehyde solution to give 2',5-dichloro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone.

reactant | 2',5-dichloro-2-(imidazol-1-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C=NC=C1)=O | C16H10Cl2N2O
reactant | formaldehyde | C=O | CH2O
product | 2',5-dichloro-2-[2-(hydroxymethyl)imidazol-1-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NC=C1)CO)=O | C17H12Cl2N2O2
